US06576653B2
2-Cyano-4H-furo[3,2-b]pyrrole-5-carboxylic acid [(1S)-benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide
2-Cyano-4H-furo[3,2-b]pyrrole-5-carboxylic acid and (2S)-amino-1-(3-hydroxy-azetidin-1-yl)-3-phenyl-propan-1-one hydrochloride were coupled according to Procedure B (reaction mixture partitioned between ethyl acetate and water prior to acidic washing).

reactant | 2-Cyano-4H-furo[3,2-b]pyrrole-5-carboxylic acid | C(#N)C1=CC=2NC(=CC2O1)C(=O)O | C8H4N2O3
reactant | (2S)-amino-1-(3-hydroxy-azetidin-1-yl)-3-phenyl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CC(C1)O)CC1=CC=CC=C1
product | 2-Cyano-4H-furo[3,2-b]pyrrole-5-carboxylic acid [(1S)-benzyl-2-(3-hydroxy-azetidin-1-yl)-2-oxo-ethyl]-amide | C(C1=CC=CC=C1)[C@@H](C(=O)N1CC(C1)O)NC(=O)C1=CC2=C(N1)C=C(O2)C#N | C20H18N4O4
